US08008302B2
Intermediate 17: (3R)-3-methyl-1-(4-propylphenyl)piperazine
A mixture of (R)-2-methylpiperazine (3.00 g, 30.0 mmol, 1.0 eq), 1-bromo-4-propylbenzene (6.27 g, 31.5 mmol, 1.05 eq.), (+/−)-BINAP (747 mg, 1.2 mmol, 0.04 eq.) and sodium tert-butoxide (4.32 g, 45.0 mmol, 1.5 eq.) in toluene (70 mL) was degassed for 15 min with N2. Palladium(II) acetate (337 mg, 1.5 mmol, 0.05 eq.) was then added at once. The reaction mixture was then heated to reflux for 16 h then cooled to RT. The mixture was then filtered on a bed of cellite and washed with Et2O. The combined organic layers were then washed with H2O (3×), dried over MgSO4, filtered and evaporated to give a dark brown oil. This residue was purified by chromatography on silica gel (DCM/MeOH 80/20) to give the title product as yellow oil (2.35 g, 36%). M+(ESI): 219.2.

reactant | (R)-2-methylpiperazine | 30.0 mmol, 3.00 g, 1.0 eq | C[C@H]1NCCNC1 | C5H12N2
reactant | 1-bromo-4-propylbenzene | 31.5 mmol, 6.27 g, 1.05 eq. | BrC1=CC=C(C=C1)CCC | C9H11Br
reactant | (+/−)-BINAP | 1.2 mmol, 747 mg, 0.04 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | sodium tert-butoxide | 45.0 mmol, 4.32 g, 1.5 eq. | CC(C)([O-])C.[Na+]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium(II) acetate | 1.5 mmol, 337 mg, 0.05 eq. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (3R)-3-methyl-1-(4-propylphenyl)piperazine | 2.35 g, 36% | C[C@@H]1CN(CCN1)C1=CC=C(C=C1)CCC | C14H22N2
